US08133998B2
A mixture of 4-oxo-3,4-dihydroquinazoline-7-carboxylic acid (2.5 g, 13.15 mmol) in 80 mL of methanol was added thionyl chloride (2.5 mL) at 5° C. and then refluxed at 80° C. over night. The reaction mixture was concentrated under vacuum and the residue dissolved in ethyl acetate. The organic layer was washed with 10% aqueous NaHCO3, water, brine and dried. The solvent was removed to give methyl 4-oxo-3,4-dihydroquinazoline7-carboxylate in 70% yield as solid.

reactant | 4-oxo-3,4-dihydroquinazoline-7-carboxylic acid | 13.15 mmol, 2.5 g | O=C1NC=NC2=CC(=CC=C12)C(=O)O | C9H6N2O3
reactant | thionyl chloride | 2.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 80 mL | CO | CH4O
product | methyl 4-oxo-3,4-dihydroquinazoline7-carboxylate | 70% yield | O=C1NC=NC2=CC(=CC=C12)C(=O)OC | C10H8N2O3
